US07528262B2
[1-(4-Benzyloxyphenyl)-5-methoxy-1H-indol-2-yl]methanol.
Lithium aluminum hydride (1.53 mL, 1 M in tetrahydrofuran, 1.53 mmol) was diluted with tetrahydrofuran (5 mL) under N2, and 1-(4-benzyloxyphenyl)-5-methoxy-1H-indole-2-carboxylic acid ethyl ester (0.51 g, 1.27 mmol) in tetrahydrofuran (5 mL) was added dropwise. The reaction was stirred at reflux for 2 hours, then cooled to room temperature. Water (0.3 mL) was added carefully, followed by 2 N NaOH (0.3 mL) and water (0.9 mL). The solvent was evaporated, and the residue was partitioned between water and ethyl acetate. The organic was separated, dried over MgSO4, and concentrated to give 0.41 g (88% yield) of crude product. LC-MS (C23H21NO3 calc'd 359) m/z 360 (M+H).

reactant | Lithium aluminum hydride | 1.53 mmol, 1 M, 1.53 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-(4-benzyloxyphenyl)-5-methoxy-1H-indole-2-carboxylic acid ethyl ester | 1.27 mmol, 0.51 g | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)OC)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C25H23NO4
reactant | Water | 0.3 mL | O | H2O
reactant | NaOH | 2 N, 0.3 mL | [OH-].[Na+]
reactant | water | 0.9 mL | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | [1-(4-Benzyloxyphenyl)-5-methoxy-1H-indol-2-yl]methanol | 0.41 g, 88% yield | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(=CC2=CC(=CC=C12)OC)CO | C23H21NO3
